US04412060
Chain Terminated Bisphenol-A Polycarbonate Utilizing a Larger Reactor Vessel
To a reactor fitted with a mechanical agitator were charged 5.5 liters of deionized water, 10 liters of methylene chloride, 2280 grams (10 moles) of bisphenol-A, 28 milliliters of triethylamine, 3.4 grams of sodium gluconate, and 0.40 mole of chain terminating agent. Phosgene was introduced at the rate of 18 grams/minute and phosgenation is continued for 60 minutes. The pH was maintained at between 8.0 and 10.0 by the addition of 25% aqueous sodium hydroxide. After phosgenation has ceased 4 liters of methylene chloride were added, the brine layer separated by centrifuge and the resin solution washed with aqueous acid water. The resin was steam precipitated and dried. To this resin product were added minor amounts (about 0.03 parts by weight per hundred parts by weight of resin) of a phosphite and of an epoxy stabilizer. This resin product was then fed to an extruder operating at a temperature of about 500° F. to extrude the resin into strands and the extruded strands chopped into pellets. The pellets were then injection molded at about 570° F. into test samples measuring about 21/2"×1/2"×1/8".

reactant | water | 5.5 liters | O | H2O
reactant | methylene chloride | 10 liters | C(Cl)Cl | CH2Cl2
reactant | bisphenol-A | 10 moles, 2280 grams | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | sodium gluconate | 3.4 grams | O=C([C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)[O-].[Na+]
solvent | triethylamine | 28 milliliters | C(C)N(CC)CC | C6H15N
product | Bisphenol-A Polycarbonate | CC(C)(C1=CC=C(C=C1)O)C2=CC=C(C=C2)O.C(=O)(O)O | InChI=1S/C15H16O2.CH2O3/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;2-1(3)4/h3-10,16-17H,1-2H3;(H2,2,3,4)
